* C:\Users\barsam\Documents\GitHub\electest\Draft1.asc
* Generated by LTspice 24.1.4 for Windows.
V1 N001 N004 12
C1 N001 N003 100mf
C2 N003 N004 100mf
L1 N003 N002 100mh
D1 N002 N001 D
D2 N004 N002 D
M1 N001 NC_01 N002 N002 PMOS
M2 N002 NC_02 N004 N004 PMOS
.model D D
.lib C:\Users\barsam\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\barsam\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 0 100 0
.backanno
.end
